US06469209B1
methyl E-2-((2-methylphenyl)oxymethyl)-6-methylphenylglyoxylate O-methyl oxime prepared in the step 1 is reacted with methylamine (NH2Me) to give N-methyl E-2-((2-methylphenyl)oxymethyl)-6-methylphenylglyoxylamide O-methyl oxime of the present invention (step 2).

reactant | methyl E-2-((2-methylphenyl)oxymethyl)-6-methylphenylglyoxylate O-methyl oxime | CO\N=C(\C(=O)OC)/C1=C(C=CC=C1C)COC1=C(C=CC=C1)C | C19H21NO4
reactant | methylamine | CN | CH5N
product | N-methyl E-2-((2-methylphenyl)oxymethyl)-6-methylphenylglyoxylamide O-methyl oxime | CO\N=C(\C(=O)NC)/C1=C(C=CC=C1C)COC1=C(C=CC=C1)C | C19H22N2O3
